US06369110B1
A mixture of ethyl salicylate (10.0 g, 60.2 mmol), 60% sodium hydride (2.41 g, 60.2 mmol) and N,N-dimethylformamide (150 ml) w as stirred at room temperature for about 1 hour, followed by adding dropwise thereto ethyl 4-bromobutyrate (12.9 g, 66.2 mmol). The reaction mixture was stirred at room temperature for 4.5 hours and then at 65-70° C. for 2 hours. The reaction mixture was poured into a cooled 5% aqueous sodium chloride solution and extracted twice with ethyl acetate, and the extract solution was washed twice with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent; ethyl acetate:n-hexane=5:95) to obtain 16.4 g of ethyl 4-(2-ethoxycarbonylphenyloxy)butyrate.

reactant | ethyl salicylate | 60.2 mmol, 10.0 g | C(C=1C(O)=CC=CC1)(=O)OCC | C9H10O3
reactant | sodium hydride | 60.2 mmol, 2.41 g | [H-].[Na+]
reactant | ethyl 4-bromobutyrate | 66.2 mmol, 12.9 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(2-ethoxycarbonylphenyloxy)butyrate | 16.4 g | C(C)OC(=O)C1=C(C=CC=C1)OCCCC(=O)OCC | C15H20O5
